US05506219
A. 1-(4-Fluorophenyl)-4,4-dimethyl-1-penten-3-one
A mixture of 4-fluorobenzaldehyde (12.13 ml, 110 mmol, Aldrich) and pinacolone (12.48 ml, 100 mmol, Aldrich) in absolute ethanol (120 ml) was treated with a solution of sodium ethoxide in ethanol (21% by weight solution; 3.72 ml, 10 mmol). The clear yellow reaction mixture was stirred at room temperature under argon for 24 hours. The reaction mixture was concentrated to 1/3volume and partitioned between 50% saturated NH4Cl and EtOAc. The layers were separated and the organic layer was washed twice with H2O and brine, then dried (Na2SO4) and concentrated under reduced pressure. The oily residue was purified by flash chromatography (Merck Silica gel, 10% EtOAc/hexane), yielding the title compound as a colorless oil that slowly solidified. The white solid was recrystallized from hexane, yielding the title compound as white crystals (13.9 g, 67.5%).

reactant | 4-fluorobenzaldehyde | 110 mmol, 12.13 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | pinacolone | 100 mmol, 12.48 ml | CC(C(C)(C)C)=O | C6H12O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethanol | 10 mmol, 3.72 ml | C(C)O | C2H6O
product | 1-(4-Fluorophenyl)-4,4-dimethyl-1-penten-3-one | FC1=CC=C(C=C1)C=CC(C(C)(C)C)=O | C13H15FO
